US06310076B1
4-(4-Chlorophenyl)-1,4-dihydro-3-(imidazol-1-yl)carbonyl-5-methoxycarbonyl-6-methyl-2-propylpyridine
A solution of 4-(4-chlorophenyl)-1,4-dihydro-5-methoxycarbonyl-6-methyl-2-propylpyridine-3-carboxylic acid (2.89 mmol) and carbonyldiimidazole (3.75 mmol) in 20 mL of anhydrous THF is stirred at room temperature for 12 hr. The solvent is removed in vacuo. The product is purified by flash chromatography and characterized spectroscopically.

reactant | 4-(4-chlorophenyl)-1,4-dihydro-5-methoxycarbonyl-6-methyl-2-propylpyridine-3-carboxylic acid | 2.89 mmol | ClC1=CC=C(C=C1)C1C(=C(NC(=C1C(=O)OC)C)CCC)C(=O)O | C18H20ClNO4
reactant | carbonyldiimidazole | 3.75 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-Chlorophenyl)-1,4-dihydro-3-(imidazol-1-yl)carbonyl-5-methoxycarbonyl-6-methyl-2-propylpyridine | ClC1=CC=C(C=C1)C1C(=C(NC(=C1C(=O)OC)C)CCC)C(=O)N1C=NC=C1 | C21H22ClN3O3
